US07342115B2
Step 1. Synthesis of 4-[4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-pyridin-3-ylmethyl]-2,2-dimethyl-morpholine
A mixture of 4-chloro-3-chloromethyl-6-(2,6-diethyl-phenyl)-2-methyl-pyridine (310 mg, 1.0 mmol), 2,2-dimethyl-morpholine (150 mg, 1.3 mmol) and K2CO3 (417 mg, 3 mmol) in CH3CN (10 mL) is stirred at room temperature for 16 hours. EtOAc (20 mL) and water (20 mL) are added to the mixture. The organic layer is separated, washed once with brine, dried (Na2SO4) and concentrated to give the title compound.

reactant | 4-chloro-3-chloromethyl-6-(2,6-diethyl-phenyl)-2-methyl-pyridine | 1.0 mmol, 310 mg | ClC1=C(C(=NC(=C1)C1=C(C=CC=C1CC)CC)C)CCl | C17H19Cl2N
reactant | 2,2-dimethyl-morpholine | 1.3 mmol, 150 mg | CC1(CNCCO1)C | C6H13NO
reactant | K2CO3 | 3 mmol, 417 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | water | 20 mL | O | H2O
product | 4-[4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-pyridin-3-ylmethyl]-2,2-dimethyl-morpholine | ClC1=C(C(=NC(=C1)C1=C(C=CC=C1CC)CC)C)CN1CC(OCC1)(C)C | C23H31ClN2O
